US09169246B2
Step 16.2. N-{2-[4-oxo-5-(2,2,2-trifluoroethyl)-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]phenyl}methanesulfonamide
The product is obtained according to the procedure described in Step 4.3. starting with N-{2-[4-oxo-5-(2,2,2-trifluoroethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]phenyl}methanesulfonamide and N-{2-[4-oxo-5-(2,2,2-trifluoroethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]phenyl}methanesulfonamide, in the form of a white powder (yield 74%).

reactant | N-{2-[4-oxo-5-(2,2,2-trifluoroethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]phenyl}methanesulfonamide | O=C1N(C=2C=C(C=CC2C2=C1CNN2COCC[Si](C)(C)C)C2=C(C=CC=C2)NS(=O)(=O)C)CC(F)(F)F | C25H31F3N4O4SSi
reactant | N-{2-[4-oxo-5-(2,2,2-trifluoroethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]phenyl}methanesulfonamide | O=C1N(C=2C=C(C=CC2C=2C1=CN(N2)COCC[Si](C)(C)C)C2=C(C=CC=C2)NS(=O)(=O)C)CC(F)(F)F | C25H29F3N4O4SSi
product | N-{2-[4-oxo-5-(2,2,2-trifluoroethyl)-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl]phenyl}methanesulfonamide | yield 74% | O=C1N(C=2C=C(C=CC2C=2C1=CNN2)C2=C(C=CC=C2)NS(=O)(=O)C)CC(F)(F)F | C19H15F3N4O3S
